US05852016
5-Amino-6,7-dichloro-2,3-dimethoxyquinoxaline
A solution of sodium methoxide (25% solution in methanol, 274 ml, 1.28 mol) was added to a suspension of 5-amino-2,3,6,7-tetrachloroquinoxaline (72.4 g, 0.256 mol) in dry methanol (1 I) and the resulting mixture was heated at reflux for 30 minutes. The mixture was cooled, concentrated under reduced pressure, and the residue partitioned between water and ethyl acetate (total of 8 I). The organic solution was dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by trituration with methanol, followed by dissolution in dichloromethane (2 I) and filtration. The filtrate was concentrated under reduced pressure to give the title compound as a yellow solid (55.0 g, 79%).

reactant | sodium methoxide | 1.28 mol, 274 ml | C[O-].[Na+]
reactant | 5-amino-2,3,6,7-tetrachloroquinoxaline | 0.256 mol, 72.4 g | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)Cl)Cl | C8H3Cl4N3
reactant | methanol | CO | CH4O
product | 5-Amino-6,7-dichloro-2,3-dimethoxyquinoxaline | 55.0 g, 79% | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
